Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm Frame Style / Prinivil / Reglan / Levofloxacin
 
Attending: ___.
 
Chief Complaint:
N/V/D.
 
Major Surgical or Invasive Procedure:
Endotracheal intubation.
PICC placement.
Dobhoff placement. 

 
History of Present Illness:
___ PMHx s/p renal transplant ___, IDDM, and chronic ___ ulcers 
who presents from ___ with N/V/D x 5d, weak 
and dizzy for several days, found to have ___, hyperkalemia and 
hypotension. 

In the ED, he denied fevers, chest pain, shortness of breath 
abdominal pain. He was normotensive with EMS, hypotensive to the 
___ in triage (Triage VS: 97.2 70 66/33 18 97% RA) and upon 
arrival to ED room.  Became hypertensive with blood pressures in 
the 140s, but slowly downtrended thereafter to SBPs ___. 
Unresponsive to 3L IVF and started on levofed and maxed out, 
added dopamine. Patient did not respond to DA so was switched to 
NEO with improvement. ED labs notable for creat 4.3 (1.0 <1 mos 
ago), K 7, bicarb 10, lactate 2.6, Trop-T: 0.22. Patient given 
calcium gluconate, 10U insulin, 1amp D50, 2 amps bicarb-> bicarb 
drip. UA notable for mild pyuria, few bacteria, hyaline casts. 
CXR was unremarkable. Patient developed tachypnea to ___ and 
increasing work of breathing for which he was intubated. IJ CVL 
placed in ED, per report in good position. Started on vanc and 
cefepime for broad spectrum coverage for possible sepsis with 
unclear etiology. 

Seen by renal in ED, recommend ongoing temporizing measures for 
hyperkalemia. If poor UOP or hyperkalemia continues, ___ need 
RRT vs. CRRT given pressors. No need for urgent HD. 

Prior to transfer, VS HR 88, BP 70/45, RR 14, 100%

On the floor,  T 95.9, HR 74, BP 147/133, RR 26, SaO2 100% on 
FiO2. Intubated and sedated. 

 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life
-CAD s/p CABG and MI; s/p stents
-Chronic dCHF
-HTN
-DM1 with retinopathy, neuropathy, ESRD, R charcot foot in ___
-s/p cadaveric renal transplant in ___ on prednisone and
tacrolimus
-ORIF right arm
-chronic foot ulcer
-amputated right toe
-MRSA right foot with osteomyelitis
-C diff colitis ___
-cryptococcal pna in ___, now on fluconazole suppressive
therapy
-lung nodules
-PVD
-GERD
-b/l cataract surgery,
-s/p pop artery angioplasty in ___
-cellulitis
-chronic osteomyelitis followed in ID clinico
-Anemia
-Arteriogram showing R fem/tib and L tib dz and vascular plans 
to consider intervention as outpatient.
 
Social History:
___
Family History:
FAMILY HISTORY:
DM type II in father and paternal grandfather. Mother had "heart 

disease".    

 
Physical Exam:
ADMISSION EXAM
================
Vitals:   T 95.9, HR 74, BP 147/133, RR 26, SaO2 100% on FiO2
General: intubated and sedated, somewhat arousable. Tachypneic
HEENT: Sclera anicteric, MMM, oropharynx clear. Left cornea 
cloudy, right pupil reactive 3->2mm
Neck: supple, JVP not elevated, no LAD  
Lungs: Coarse breath sounds, no wheezing
CV: soft heart sounds, regular rhythm, no murmurs. 
Abdomen: soft, non-distended, bowel sounds present. 
GU: foley in place
Ext: ___ ___ with multiple shallow ulcers with granulation 
tissue, on shins and heels. R lateral lower leg with 6x2cm deep 
ulcer with purulent drainage from proximal end. No palpable 
distal pulses on ___ or ___. Radial pulses audible by doppler

DISCHARGE EXAM
================
VS: 97.8 98.3 140/66 62 18 96% RA
BS: 130 92 237 172 42 63 92
I/O: 24 hr - 830/1300 MN - 50/400
Wt: 65.8 kg
GENERAL: Awake, laying in bed, NAD, pleasant and cooperative
Neck: JVP at clavicle
LUNGS: Decreased BS at bilateral bases, no crackles or wheezing, 
but limited by patient positioning
HEART: Regular, no murmur, gallops, rubs
ABDOMEN: NABS, soft/NT/ND. 
EXTREMITIES: Lower extremities wrapped in bandages, which are 
c/d/i with exposed toes revealing numerous wounds and abrasions. 
___ without edema and ___ with trace edema b/l. Superficial skin 
wounds/skin breakdown diffusely.
NEURO: A&Ox3, answering questions appropriately

 
Pertinent Results:
ADMISSION LABS
==============
___ 11:00AM   WBC-8.9# RBC-4.03* HGB-9.1* HCT-32.4* MCV-80* 
MCH-22.4* MCHC-28.0* RDW-16.5*
___ 11:00AM   NEUTS-83.5* LYMPHS-10.7* MONOS-4.4 EOS-1.1 
BASOS-0.2
___ 11:00AM   PLT COUNT-398
___ 11:00AM   ___ PTT-54.1* ___
___ 11:00AM   tacroFK-12.4
___ 11:00AM   GLUCOSE-214* UREA N-59* CREAT-4.3*# 
SODIUM-135 POTASSIUM-7.0* CHLORIDE-98 TOTAL CO2-10* ANION 
GAP-34*
___ 11:00AM   ALT(SGPT)-10 AST(SGOT)-20 CK(CPK)-52 ALK 
PHOS-149* TOT BILI-0.3
___ 11:00AM   LIPASE-7
___ 11:00AM   cTropnT-0.22*
___ 11:00AM   CK-MB-3
___ 11:00AM   ALBUMIN-2.4* CALCIUM-8.4 PHOSPHATE-6.6*# 
MAGNESIUM-2.3
___ 12:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-LG
___ 12:20PM URINE  RBC-3* WBC-12* BACTERIA-FEW YEAST-NONE 
EPI-0

PERITINENT LABS
================ 
___ 03:49PM BLOOD WBC-9.0 RBC-3.65* Hgb-8.6* Hct-28.6* 
MCV-78* MCH-23.5* MCHC-30.1* RDW-16.8* Plt ___
___ 06:50AM BLOOD ___ PTT-54.8* ___
___ 09:10PM BLOOD ESR-30*
___ 11:33AM BLOOD Glucose-187* UreaN-41* Creat-2.6* Na-145 
K-4.1 Cl-116* HCO3-17* AnGap-16
___ 05:00AM BLOOD CK-MB-5 cTropnT-0.09*
___ 11:33AM BLOOD Calcium-5.6* Phos-3.9 Mg-1.8
___ 09:41PM BLOOD Type-ART Temp-36.3 Rates-30/ Tidal V-450 
PEEP-5 FiO2-40 pO2-91 pCO2-25* pH-7.26* calTCO2-12* Base XS--13 
-ASSIST/CON Intubat-INTUBATED
___ 04:34AM BLOOD Lactate-1.6
___ 02:28AM BLOOD freeCa-0.97*

DISCHARGE LABS
===============
___ 11:25PM BLOOD WBC-3.7* RBC-3.46* Hgb-9.1* Hct-29.4* 
MCV-85 MCH-26.2* MCHC-30.9* RDW-20.9* Plt ___
___ 11:25PM BLOOD ___ PTT-43.9* ___
___ 11:25PM BLOOD Glucose-45* UreaN-39* Creat-1.6* Na-142 
K-4.3 Cl-104 HCO3-35* AnGap-7*
___ 11:25PM BLOOD Calcium-7.9* Phos-4.2 Mg-1.9

IMAGING
======== 
___ CXR
FINDINGS:  As compared to the previous radiograph, there is 
known scarring at the bases of the right upper lobe, associated 
with a minor degree of volume loss as well as scarring in the 
left lung, the level of the upper and lower hilus.  Status post 
sternotomy and CABG.  Lung volumes are low.  There are no 
pleural effusions.  Normal size of the cardiac silhouette.  No 
pulmonary edema.  No pneumonia. 

___ RENAL U/S
IMPRESSION: 
1.  Little change compared to ___ with 
redemonstration of elevated intrarenal resistive indices with a 
maximum value of 0.93, which may be mildly increased since the 
prior, without discernable antegrade diastolic flow.  The 
intrarenal indices measure higher than on prior exam and may be 
increased particularly given sharper appearance of waveform 
though previously they were estimated to be higher than the 
given values.  Elevated peak systolic velocity of the main renal 
artery is decreased compared to ___ however, remains 
elevated compared to ___. 
2.  Extensive intrarenal vascular calcifications, unchanged. 
3.  Otherwise, no hydronephrosis, masses or perinephric fluid 
collection. 

___ CXR
IMPRESSION: 
1.  Endotracheal and enteric tubes in appropriate position. 
2.  Interval placement of a left-sided IJ central venous 
catheter terminating in the proximal SVC without evidence of 
pneumothorax. 
3.  Interval development of left base opacity, likely 
combination of left 
lower lobe collapse and pleural effusion.  Increased perihilar 
opacities 
suggest pulmonary edema. 

___ Tib/Fib xray
FINDINGS:  Generalized osteopenia.  Known Charcot arthropathy 
with a 
rocker-bottom foot deformity.  Status post second toe 
amputation.  Massive 
vascular soft tissue calcifications with stents and surgical 
material in situ. Zone of cortical thinning and mild soft tissue 
swelling at the level of the fibular shaft.  No evidence of 
fractures. 

___ abdominal xray
FINDINGS:  Two projections in supine body position are provided. 
 Severe 
vascular calcifications.  Inferior vena cava filter.  Clips 
projecting over the pelvis.  Partially collapsed colon and 
multiple gas filled but 
non-distended bowel loops are visualized.  No evidence of free 
intra-abdominal air. 

___ CXR
FINDINGS:  As compared to the previous radiograph, the lung 
volumes have 
increased, likely reflecting improved ventilation or increased 
ventilatory 
pressure.  A pre-existing opacity in the right lung has almost 
completely 
resolved.  On the left, atelectasis in the retrocardiac lung 
regions, a small perihilar opacity and a mild-to-moderate left 
pleural effusion, persist.  No new parenchymal opacities.  
Unchanged size of the cardiac silhouette. 

___ CXR
No new focal consolidations concerning for pneumonia. 

___ MRI CERVICAL/THORACIC SPINE
IMPRESSION:  Degenerative changes of the cervical spine, mildly 
progressed at C4-C5. Chronic compression deformities in the 
thoracic spine.  No acute findings noted. 

___ CXR
Mild pulmonary edema on the right and moderate pulmonary edema 
on the left have worsened since ___, both slightly less 
severe than on ___ when there was also asymmetry.  
Heart size is normal.  Small right and moderate left pleural 
effusions are stable.  Left internal jugular line ends in the 
mid SVC.  No pneumothorax. 

___ B/L ___
Study is limited by bilateral lower leg bandage material, which 
precludes visualization of the calf veins, as well as reduced 
ability to 
perform compression maneuvers in the setting of patient 
discomfort.  Allowing for this, no evidence of DVT in right or 
left lower extremities from common femoral to popliteal veins. 

___ B/L ___ ARTERIAL U/S
Patent bilateral lower extremity arterial systems with no 
evidence of focal velocity elevation 
  
___ TTE
The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and global systolic function are probably normal 
(LVEF >55%). There is no ventricular septal defect. with normal 
free wall contractility. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. The tricuspid valve leaflets are mildly thickened. 
There is moderate pulmonary artery systolic hypertension. There 
is no pericardial effusion. 
Compared with the prior study (images reviewed) of ___, LV 
systolic function appears less vigorous but still normal

___ CXR
There are persistent and slightly worsening opacities in the 
left upper and mid lung and right lower lung which would be 
concerning either for worsening edema or pneumonia.  Chain 
sutures are again identified abutting the minor fissure 
consistent with prior surgery.  Bilateral effusions, left 
greater than right, are again seen.  Persistent retrocardiac 
opacity may reflect compressive atelectasis, although infection 
in this region cannot be excluded. The patient is status post 
median sternotomy for CABG, but assessment of cardiac and 
mediastinal contours is difficult due to the patient's marked 
rotation on the current examination.  Left internal jugular 
central line continues to have its tip in the mid SVC.  Linear 
calcifications in the left upper hemithorax are felt to likely 
be pleural in etiology.  A portion of the inferior vena caval 
filter is imaged at the edge of the study. 
  
___ KUB
Nonspecific bowel gas pattern with no evidence of obstruction.  

___ NCHCT
No evidence for  infarction.  MRI is more sensitive for 
detecting acute 
ischemia. Slight increase in ventricular size from ___, 
likely 
reflecting progressive atrophy.   
  
___ UPPER EXTREMITY U/S WITH DOPPLER
No left upper extremity DVT

___ CXR
As compared to the previous radiograph, there is unchanged 
evidence 
of mild-to-moderate pulmonary edema.  The pre-existing scars in 
the lung 
parenchyma, notably at the left lung apex and left lung base are 
constant in appearance.  Constant size of the cardiac 
silhouette.  No larger pleural effusions.  The Dobbhoff catheter 
has been pulled back.  The catheter is now malpositioned in the 
esophagus and needs to be advanced by at least 10cm to ensure 
position in the stomach.  Unchanged position of the left PICC 
line.  Unchanged alignment of the sternotomy wires. 

___ CXR
The ___ tube appears to be in the oropharynx with the tip 
seen projecting over the mouth floor.  Pulmonary edema is 
present.  Bilateral pleural effusions are noted. 

___ RENAL U/S
1.  Mild improvement of vascular waveforms compared to ___, now with demonstration of minimal antegrade diastolic 
flow within the interlobar renal arteries as well as interval 
decrease in main renal artery peak systolic velocities. 
2.  Redemonstration of intrarenal vascular calcifications. 
3.  No hydronephrosis, masses or perinephric fluid collections 

 
Brief Hospital Course:
___ with PMHx renal transplant ___, IDDM, and chronic ___ ulcers 
who presents from ___ with N/V/D x 5d, weak 
and dizzy for several days, admitted with septic shock likely 
___ to HCAP with ___, hyperkalemia and hypotension, now 
extubated and with resolving infection, but course complicated 
by delirium, labile blood sugars, and malnutrition. 

ACUTE ISSUES
# Septic shock: Patient became hypotensive in the ED and was 
placed on 2 pressors and transferred to the ICU. Differential 
for shock most likely hypovolemic (poor PO and emesis), vs 
sepsis with possible sources: lung vs GI vs skin/soft tissue 
infection. He does have CAD history, though thought less likely 
to be cardiogenic, despite initial changes on EKG and elevated 
troponins. Lactate not significantly elevated, but SvO2 
initially high and downtrended with fluid resuscitation. He was 
weaned off of pressors, and maintained on antibiotics for 
possible pneumonia vs osteomyelitis. Given that CXR blossomed 
and revealed LUL consolidation and possible RLL opacity as well, 
it was thought that the patient had become septic ___ to 
evolving PNA. Antibiotics included vanco/cefepime/flagyl 
initially, but were narrowed to vanc/cefepime. Once the patient 
was hemodynamically stable, he was transferred out of the ICU. 
While on the floor, the patient completed his full 14 day 
antibiotic course of the vanc and cefepime. He remained afebrile 
and hemodynamically stable throughout the remainder of his 
admission. 

# Respiratory failure: Patient was intubated in the ED for 
increased work of bleeding and tachypnea, without hypoxia. 
Likely respiratory compensation for metabolic acidosis. He was 
extubated ___ without incident. Finding of pulmonary opacities 
concerning for pneumonia, antibiotics as above.  

# ___ with resultant acidosis and hyperkalemia: Cr increase from 
1.0 to 4.8 on presentation. Likely prerenal with hypovolemia 
from recent GI illness, improved with fluid resuscitation. Cr 
trended down and plateaued in 2.0's, likely from ATN component 
from hypotension. Less likely concern for tacro toxicity or 
rejection.  Renal u/s normal. Related acidosis and hyperkalemia, 
without peaked T on EKG. Improved with IVF, but oliguric. 
Subsequently Cr trending down into the 1.0-1.3 range. Of note, 
later during the admission, Cr uptrended once again to peak of 
1.9. Urine revealed muddy brown casts, c/w with ATN, thought to 
be ___ to brief episode of hypotension with SBPs into the ___ on 
the floor. Renal u/s repeated, which again was wnl. Cr at the 
time of discharge downtrending and 1.6. Cr should be checked 
within the next week as an outpatient to ensure improvement, 
although this could be the patient's new baseline. 

# Fluid overload: Patient was given 12L in ICU for fluid 
rescusitation with septic shock. While on the floor the patient 
was noted to have mild dyspnea, moderately elevated JVP, 
crackles in lungs, and moderate sacral edema. CXR revealed 
pulmonary edema likely ___ volume overload from fluid 
resuscitation. The patient was intially diuresed with IV 
furosemide and responded well with good UOP and improvement in 
respiratory status. The patient was transitioned to PO torsemide 
80 mg QD prior to discharge. 

# Delirium: Patient was noted to have waxing/waning mental 
status for a period of ___ days during the admission while on 
the floor. Deliriogenic medications, including IV dilaudid was 
stopped. Blood sugars were not well controlled ___ to 
inconsistent PO intake, with brief episodes of intermittent, 
asymptomatic hypoglycemia and hyperglycemia without DKA. This 
was, therefore, thought to be partially be contintributing to 
his altered mental status. ___ did not reveal CVA or acute 
changes, but did note some global atrophy. With better control 
of blood sugars the patient's mental status gradually cleared. 
At the time of discharge the patient was alert and oriented x 3 
without any focal neurologic deficits. 

# Type 1 diabetes: Patient had an extremely tenuous course with 
regard to his blood sugars. He had inconsistent PO intake, which 
made appropriate control difficult. ___ was consulted and 
recommended the current regimen of glargine 6 U at lunch and 2 U 
at dinner with ISS. Patients blood sugars were generally 
130-200s prior to discharge. However, on the morning of 
discharge, BS dropped to 42, which was asymptomatic. Patient was 
given apple juice with return of BS to 92. ___ 
was called and informed to hold the patient's bedtime 2U of 
glargine on ___ and re-assess his AM blood sugars on 
___. Based on his outpatient eating habits and trends, the 
patient's outpatient physicians ___ have to continually 
re-evaluate his blood sugars and make adjustement to the 
patient's insulin dosing regimen, as needed.

# Poor PO intake: The patient has a long-standing history of 
poor PO intake. Upon admission he had significant muscle 
weakness and multiple skin lesions, which were thought to be due 
to dietary deficiency. MRI of the spine was performed to rule 
out any organic cause for the patient's weakness, but was found 
to be wnl. Nutrition was consulted and recommended placing 
Dobhoff tube, which was placed and remained in placed for about 
___ days. NGT subsequently became malpositioned during an 
episode of delirium and was removed. Once the patient's mental 
status returned to baseline and the patient was A&Ox3, a long 
discussion was had about re-placing the NGT. The patient did not 
want NGT placed. Patient was able to state that if NGT not 
placed and he continues to not eat he will become nutritionally 
deficient and could die. Patient also expressed his desire to 
stay alive. Discussed that if he wanted to stay healthy that he 
would have to eat more. Patient understood and stated that he 
would make an increased effort in the future. The patient's wife 
also agreed to be more involved in his nutrition and would bring 
him at least one meal daily to his nursing home. 

# Anemia: Patient noted on a few occasions during this admission 
to have Hgb ___ with low MCVs. These episodes have always follow 
slow declines in H/H. Hemolysis labs negative. Patient without 
any obvious source of bleeding and stool guiac negative. Iron 
studies show TIBC low, iron low, and ferritin wnl. Retic count 
only 3.9 and with such a low Hgb would potentially expect a 
better response if he was truly iron replete. B12 high. Likely 
___ to anemia of chronic disease with sequestering of iron 
stores preventing a truley robust retic response. The patient 
was transfused with a total of 3 U pRBCs during this admission 
(1 U on three separate occasions) all with appropriate increases 
in Hct. Prior to discharge the patient was started on daily iron 
supplementation. Initiating Epo was discussed with renal, but 
not felt to be necessary at this time, though epo levels are 
pending. Hct at the time of discharge was 29.4.

# Diarrhea: History of N/V/D prior to admission, but appeared to 
have resolved upon admission. Later during the admission the 
patient did have more diarrhea, but C. diff studies were 
negative. Patient maintained on loperamide PRN. 

# Urinary retention: During this admission the patient initially 
required a foley for urine output monitoring. The foley was 
attempted to be removed on multiple occasions, but the patient 
would subsequently develop urinary retention noted on bladder 
scanning and require foley replacement.  Of note, medications 
were evaluated and no new anticholinergics or other meds with 
known s/e of urinary retention were found. Due to low normal 
SBPs during this admission, tamsulosin was held, but was 
restarted at the time of discharge. The patient will be 
discharged with foley in place with plan to see Urology as an 
outpatient for a voiding trial with tamsulosin on board.

CHRONIC ISSUES
# PVD/leg ulcers/osteo: History of non-healing ___ ulcers and 
MRSA osteo. Appearance of deep wound on right leg concerning for 
probe to bone. L tib/fib xray suggestive of osteo, but ESR not 
significantly elevated. Vascular surgery consulted and did not 
recommend interventions for now. Request arterial studies to r/o 
arterial ulcer, which showed patent bilateral lower extremity 
arterial systems.  

# Hx DVT: On warfarin, presented with supratherapeutic INR 5.5 
which increased to 10. He was reversed with Vit K and restarted 
on home regimen. INR at the time of discharge was 4.0. Goal ___. 
Patient should have his warfarin dose held at on day of 
discharge. Patient should have his INR carefully monitored and 
warfarin dose adjusted accordingly as an outpatient.  

# CAD s/p CABG: On admission, had new TWI in anterior leads and 
troponin elevation. ___ have been poor clearance in setting of 
acute renal failure with flat CKMB. Downtrended and patient 
without chest pain prior to discharge. 

TRANSITIONAL ISSUES
- Patient was started on torsemide 80 mg PO QD for fluid 
overload and pulmonary edema. He should continue this as an 
outpatient and potentially transition back to his home dose of 
furosemide 40 mg PO QD slowly, per outpatient PCP 
___. 
- Due to low/normal BPs during the admission, the patient 
developed ATN. Cr at the time of discharge was 1.6. Cr should be 
monitored as an outpatient, but this could be the patient's new 
baseline. Additionally, tacrolimus dose was increased 1 mg PO 
Q12H. Tactolimus levels should be monitored as an outpatient. 
The patient will need follow-up with Transplant Nephrology 
within ___ months. 
- Patient was noted to be anemic with Hgb < 7.0 during this 
admission. He required 3U pRBC and was started on iron 
supplementation prior to discharge. Please ensure that the 
patient maintains an aggressive bowel regimen to prevent 
complications from the iron. Please check Hct within 1 week to 
ensure stability.  
- Patient was discharged with a foley in place. Tamsulosin was 
restarted at discharge. Patient will require outpatient 
follow-up with Urology for voiding trial. 
- During this admission the patient had ongoing issues with poor 
PO intake, which has been a chronic problem. The issue of 
re-placing the NGT prior to discharge was discussed with both 
the patient and his family, but all were opposed. The patient's 
wife agreed to bring the patient at least one meal per day and 
the patient agreed to try to eat more. 
- At the time of discharge patient is full code, but ongoing 
code status conversations should be had with the patient and his 
family.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ventolin HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q6h sob 
2. Nitroglycerin SL 0.3 mg SL PRN chest pain 
3. Senna 1 TAB PO BID:PRN constipation 
4. Acetaminophen 650 mg PO Q4H:PRN pain 
5. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
6. Atorvastatin 80 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Fluconazole 200 mg PO Q24H 
9. Multivitamins 1 TAB PO DAILY 
10. PredniSONE 5 mg PO DAILY 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
12. Tacrolimus 0.5 mg PO Q12H 
13. Travatan Z (travoprost) 0.004 % OS qday 
14. Furosemide 40 mg PO DAILY 
15. Pantoprazole 20 mg PO Q12H 
16. Senna with Docusate Sodium (sennosides-docusate sodium) 
8.6-50 mg Oral qhs 
17. Tamsulosin 0.4 mg PO HS 
18. Mirtazapine 7.5 mg PO HS 
19. Actonel (risedronate) 35 mg ORAL Q ___ 
___. Metoprolol Tartrate 25 mg PO BID 
21. Warfarin 0.5 mg PO DAILY16 
22. Amlodipine 5 mg PO DAILY 
23. Glargine 14 Units Breakfast
Glargine 12 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Fluconazole 200 mg PO Q24H 
5. Glargine 6 Units Lunch
Glargine 2 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Metoprolol Tartrate 6.25 mg PO BID 
7. Pantoprazole 20 mg PO Q12H 
8. PredniSONE 5 mg PO DAILY 
9. Senna 1 TAB PO BID:PRN constipation 
10. Tacrolimus 1 mg PO Q12H 
11. Travatan Z (travoprost) 0.004 % OS qday 
12. Warfarin 0.5 mg PO DAILY16 
13. Ferrous Sulfate 325 mg PO DAILY 
14. LOPERamide 2 mg PO QID:PRN diarrhea 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16. Sarna Lotion 1 Appl TP QID:PRN pruritus 
17. Torsemide 80 mg PO DAILY 
18. Actonel (risedronate) 35 mg ORAL Q ___ 
19. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
20. Mirtazapine 7.5 mg PO HS 
21. Multivitamins 1 TAB PO DAILY 
22. Nitroglycerin SL 0.3 mg SL PRN chest pain 
23. Tamsulosin 0.4 mg PO HS 
24. Ventolin HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q6h sob 
25. Docusate Sodium 100 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Septic shock
UTI
___
Malnutrition

Secondary diagnosis:
Diabetes type I
Lower extremitity ulcers
Afib on coumadin
ESRD s/p renal transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you during your stay at ___ 
___. 

You were admitted for a severe infection. You initially were 
cared for in the ICU, where you received antibiotics and fluids 
along with other medications. You improved, and were transferred 
to the regular medicine team, where you continued to clinically 
improve, although your course was complicated by delerium, 
volatile blood sugars, fluid overload and malnutrition. You were 
sent back to your rehab in stable condition to follow up with 
your kidney doctors. ___ was recommended that you go home with a 
feeding tube to help with your nutrition and wound healing, but 
your felt strongly that you did not want this, although you 
clearly understood the health risks malnutrition poses for you. 

We wish you the very best in your recovery!

Your ___ medicine team
 
Followup Instructions:
___